US05091274
6-Cyano-2-naphthol (16)
Copper (I) cyanide (2.73 g, 0.03 mol) was added to a solution containing 5 g (0.022 mol) 6-bromo-2-hydroxynaphthalene in 25 ml of dry N-methyl-2-pyrrolidinone and refluxed at 200° C. under nitrogen for 1.5 h. The reaction mixture was cooled to 100° C., poured into a solution of iron(III) chloride (5.9 g) in water (91 ml) and concentrated hydrochloric acid (3.18 ml), and stirred at 60° C. for 30 min. The obtained mixture was extracted with ethyl ether. The ether layer was treated with charcoal, dried over anhydrous sodium sulfate, and then evaporated to dryness. The obtained solid was recrystallized from water to yield 2.04 g (54%) white solid. 1H-NMR (CDCl3, TMS, δ in ppm): 5.60 (s, 1H, --OH), 7.10-8.07 (m, 6, aromatic protons).

reactant | Copper (I) cyanide | 0.03 mol, 2.73 g | [Cu]C#N
reactant | 6-bromo-2-hydroxynaphthalene | 0.022 mol, 5 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
solvent | N-methyl-2-pyrrolidinone | 25 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 91 ml | O | H2O
solvent | hydrochloric acid | 3.18 ml | Cl | ClH
catalyst | iron(III) chloride | 5.9 g | [Fe](Cl)(Cl)Cl
product | 6-Cyano-2-naphthol | 2.04 g, 54% | C(#N)C=1C=C2C=CC(=CC2=CC1)O | C11H7NO
